US06635657B1
C. N-(5-Chloropyridin-2-yl)-5-fluoro-2-(piperidin-4-ylmethylamino)benzamide
A solution of 2-(1-Boc-piperidin-4-ylmethylamino)-N-(5-chloropyridin-2-yl)-5-fluorobenzamide from above (5.8 g, 12 mmol) in trifluoroacetic acid (125 mL) was heated at 70° C. for 2 h, then at room temperature for 24 h. The solvent was removed in vacuo; then the residue was directly applied to a silica gel column. Elution with dichloromethane-2 M ammonia in methanol (9:1) afforded 3.8 g (84%) of the title compound as a yellow solid.

reactant | 2-(1-Boc-piperidin-4-ylmethylamino)-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | C(=O)(OC(C)(C)C)N1CCC(CC1)CNC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)F | C23H28ClFN4O3
solvent | trifluoroacetic acid | 125 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-(5-Chloropyridin-2-yl)-5-fluoro-2-(piperidin-4-ylmethylamino)benzamide | 3.8 g, 84% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NCC1CCNCC1)=O | C18H20ClFN4O
